US07696240B2
Using general procedure B, 1H-indole-2-carboxylic acid ethyl ester was coupled with 1-bromomethyl-7-fluoro-naphthalene and the product obtained was hydrolyzed to give 1-(7-fluoro-naphthalen-1-ylmethyl)-1H-indole-2-carboxylic acid as a white solid. MS: 318.0 ([M−H]).

reactant | 1H-indole-2-carboxylic acid ethyl ester | C(C)OC(=O)C=1NC2=CC=CC=C2C1 | C11H11NO2
reactant | 1-bromomethyl-7-fluoro-naphthalene | BrCC1=CC=CC2=CC=C(C=C12)F | C11H8BrF
product | 1-(7-fluoro-naphthalen-1-ylmethyl)-1H-indole-2-carboxylic acid | FC1=CC=C2C=CC=C(C2=C1)CN1C(=CC2=CC=CC=C12)C(=O)O | C20H14FNO2
